US08609687B2
N-Piperidin-4-yl-4-[8-(3-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-benzamide
To a solution of 4-(8-(3-(trifluoromethyl)phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino)benzoic acid (1.0 g, 2.5 mmol, 1 equiv), O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.14 g, 3.00 mmol, 1.2 equiv), N,N-diisopropylethylamine (484 mg, 3.74 mmol, 1.5 equiv) in 2:1 tetrahydrofuran/dichloromethane (50 mL) was added text-butyl 4-amino-1-piperidinecarboxylate (0.60 g, 3.0 mmol, 1.2 equiv) at room temperature. After 16 h, the reaction mixture was filtered, and the filtrate was concentrate. The resulting residue was dissolved in 1:1 trifluoroacetic acid/tetrahydrofuran (50 mL) at room temperature. After 2 h, the reaction mixture was concentrated in vacuo. Purification by preparative HPLC provided product (508 mg, 42%). LCMS (ESI) m/z: 481.0; 1H NMR (400 MHz, DMSO-d6) δ: 10.06 (s, 1 H), 8.85 (d, J=7.6 Hz, 1 H), 8.60 (s, 1 H), 8.38 (d, J=8.8 Hz, 1 H), 7.98 (d, J=8.8 Hz, 1 H), 7.84 (br s, 2 H), 7.72-7.79 (m, 3 H), 7.32 (d, J=7.6 Hz, 2 H), 7.15 (m, 1 H), 4.02 (m, 1 H), 3.27-3.32 (m, 2 H), 2.95-3.05 (m, 2 H), 1.87-1.94 (m, 2 H), 1.41-1.48 (m, 2 H).

reactant | 4-(8-(3-(trifluoromethyl)phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino)benzoic acid | 2.5 mmol, 1.0 g, 1 equiv | FC(C=1C=C(C=CC1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C(=O)O)C=C2)(F)F | C20H13F3N4O2
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 3.00 mmol, 1.14 g, 1.2 equiv | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 3.74 mmol, 484 mg, 1.5 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | butyl 4-amino-1-piperidinecarboxylate | 3.0 mmol, 0.60 g, 1.2 equiv | NC1CCN(CC1)C(=O)OCCCC | C10H20N2O2
solvent | tetrahydrofuran dichloromethane | 50 mL | O1CCCC1.ClCCl
product | N-Piperidin-4-yl-4-[8-(3-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-benzamide | 508 mg, 42% | N1CCC(CC1)NC(C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=CC(=CC=C2)C(F)(F)F)=N1)=O | C25H23F3N6O
